US04845020
To a solution of 2,5-dimethoxyaniline (61.2 g, 0.4 mol) and triethylamine (75 ml, 0.48 mol) in 300 ml of tetrahydrofuran was added carbon disulfide (91.2 g, 0.48 mol) at 5° C. and stirring was continued for 3 hours. To the reaction mixture kept at 5° C. was added N,N'-dicyclohexylcarbodiimide (99 g, 0.48 mol) and stirring was continued for another 3 hours. To the reaction mixture were added 2N HCl solution (100 ml) and hexane (100 ml) and an aqueous layer was separated. n-Hexane (100 ml) was further added to an organic layer and precipitates were filtered off. The solvents were distilled off under reduced pressure and a crude oily product was obtained. Separation and purification by chromatography using a silica gel column gave oily 2,5-dimethoxyphenylisothiocyanate (45 g, yield 57%).

reactant | 2,5-dimethoxyaniline | 0.4 mol, 61.2 g | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | triethylamine | 0.48 mol, 75 ml | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.48 mol, 91.2 g | C(=S)=S | CS2
reactant | N,N'-dicyclohexylcarbodiimide | 0.48 mol, 99 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | HCl | 2N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 2,5-dimethoxyphenylisothiocyanate | 45 g, yield 57% | COC1=C(C=C(C=C1)OC)N=C=S | C9H9NO2S
